US07557127B2
To a stirred solution of ethyl (2E)-3-(2-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-5-pyrimidinyl)acrylate (384 mg) in acetonitrile (5 mL) was added di-tert-butyl dicarbonate (468 mg) and 4-dimethylaminopyridine (26 mg), and the mixture was stirred at 80° C. for 18 hours. Additional di-tert-butyl dicarbonate (1.0 g) and 4-dimethylaminopyridine (50 mg) was added and the mixture was stirred at 80° C. for 24 hours. The solvent was evaporated in vacuo and the residue was purified by silica gel column chromatography (chloroform/methanol=90/10 v/v) to give ethyl (2E)-3-(2-{(tert-butoxycarbonyl)[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-5-pyrimidinyl)acrylate (330 mg) as a tan solid.

reactant | ethyl (2E)-3-(2-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-5-pyrimidinyl)acrylate | 384 mg | C1(CCCCC1)CN1C[C@@H](CC1)NC1=NC=C(C=N1)/C=C/C(=O)OCC | C20H30N4O2
reactant | di-tert-butyl dicarbonate | 468 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 1.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 26 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | ethyl (2E)-3-(2-{(tert-butoxycarbonyl)[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-5-pyrimidinyl)acrylate | 330 mg | C(C)(C)(C)OC(=O)N(C1=NC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CN(CC1)CC1CCCCC1 | C25H38N4O4
